US09079930B2
Step C: Diethyl 4-(amino(4-methoxyphenyl)methyl)phenylphosphonate (1-1-d)
To a mixture of (4-bromophenyl)(4-methoxyphenyl)methanamine, 1-1-c, (2 g, 6.8 mmol), diethyl phosphate (1.1 g, 8.2 mmol) and Et3N (1.3 g, 10.2 mmol) in toluene (25 ml) was added Pd(PPh3)4 (1.5 g, 20%). The mixture was allowed to stir for two days at 100° C. The mixture was then diluted with saturated NH4Cl and extracted with EtOAc. The organic layer was dried over Na2SO4, concentrated, and purified over silica gel (5% MeOH/DCM) to obtain as an oil, 1-1-d, (1.00 g). 1HNMR (300 MHZ, DMSO-d): 1.29 (m, 6H), 3.77 (s, 3H), 4.10 (m, 4H), 5.19 (s, 1H), 6.82 (d, 2H), 7.26 (d, 2H), 7.48 (d, 2H), 7.74 (d, 2H).

reactant | (4-bromophenyl)(4-methoxyphenyl)methanamine | BrC1=CC=C(C=C1)C(N)C1=CC=C(C=C1)OC | C14H14BrNO
reactant | diethyl phosphate | 6.8 mmol, 2 g | P(=O)(OCC)(OCC)[O-]
reactant | Et3N | 10.2 mmol, 1.3 g | CCN(CC)CC | C6H15N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | NH4Cl | [NH4+].[Cl-]
catalyst | Pd(PPh3)4 | 1.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Diethyl 4-(amino(4-methoxyphenyl)methyl)phenylphosphonate | NC(C1=CC=C(C=C1)P(OCC)(OCC)=O)C1=CC=C(C=C1)OC | C18H24NO4P
